US04508727
0.6 g of tert.-butyl (4S)-1-benzyl-3-{(2S)-2-[N-((1S)-1-benzyloxycarbonyl-2-phenylethyl)amino]propionyl}-2-oxo-imidazolidine-4-carboxylate and 20 ml of a 20% hydrogen chloride-dioxane solution are treated in the same manner as described in Example 10-(3), whereby 0.47 g of (4S)-1-benzyl-3-{(2S)-2-[N-((1S)-1-benzyloxycarbonyl-2-phenylethyl)amino]propionyl}-2-oxo-imidazolidine-4-carboxylic acid is obtained as colorless viscous oil. This oil (0.47 g) and 30 mg of palladium black are treated in the same manner as described in Example 10-(5), whereby 0.32 g of (4S)-1-benzyl-3-{(2S)-2-[N-((1S)-1-carboxy-2-phenylethyl)amino]propionyl}-2-oxo-imidazolidine-4-carboxylic acid is obtained as colorless crystals. Yield: 71.1%

reactant | tert.-butyl (4S)-1-benzyl-3-{(2S)-2-[N-((1S)-1-benzyloxycarbonyl-2-phenylethyl)amino]propionyl}-2-oxo-imidazolidine-4-carboxylate | 0.6 g | C(C1=CC=CC=C1)N1C(N([C@@H](C1)C(=O)OC(C)(C)C)C([C@H](C)N[C@@H](CC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)=O)=O | C34H39N3O6
reactant | hydrogen chloride dioxane | Cl.O1CCOCC1
product | (4S)-1-benzyl-3-{(2S)-2-[N-((1S)-1-benzyloxycarbonyl-2-phenylethyl)amino]propionyl}-2-oxo-imidazolidine-4-carboxylic acid | 0.47 g | C(C1=CC=CC=C1)N1C(N([C@@H](C1)C(=O)O)C([C@H](C)N[C@@H](CC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)=O)=O | C30H31N3O6
